US09163027B2
5,7-diethyl-2-[2-(4-fluorophenoxy)ethoxy]-[1,2,4]triazolo[1,5-a]pyrimidine
The title compound was prepared according to the experimentals described for Example 14 above from 2-methanesulfonyl-5,7-diethyl-[1,2,4]triazolo[1,5-a]pyrimidine and 2-(4-fluorophenoxy)ethan-1-ol in 70% yield. EM (calc.): 330.1; MS (ESI) m/e: 331.3 (M+H)+.

reactant | 2-methanesulfonyl-5,7-diethyl-[1,2,4]triazolo[1,5-a]pyrimidine | CS(=O)(=O)C1=NN2C(N=C(C=C2CC)CC)=N1 | C10H14N4O2S
reactant | 2-(4-fluorophenoxy)ethan-1-ol | FC1=CC=C(OCCO)C=C1 | C8H9FO2
product | 5,7-diethyl-2-[2-(4-fluorophenoxy)ethoxy]-[1,2,4]triazolo[1,5-a]pyrimidine | 70% yield | C(C)C1=NC=2N(C(=C1)CC)N=C(N2)OCCOC2=CC=C(C=C2)F | C17H19FN4O2
